US04255426
Following the procedures of Examples 4 and 5, 1-benzyl-4-(2-hydroxy-3-n-dodecyloxypropyl)-piperazine was converted to 1-(2-hydroxy-3-n-dodecyloxypropyl)piperazine by hydrogenolysis using a palladium on carbon catalyst. The hydrogenolysis product was reacted with 4-fluorobenzyl chloride to form 1-(4-fluorobenzyl)-4-(2-hydroxy-3-n-dodecyloxypropyl)-piperazine, mp 243°-245° C.

reactant | 1-benzyl-4-(2-hydroxy-3-n-dodecyloxypropyl)-piperazine | C(C1=CC=CC=C1)N1CCN(CC1)CC(COCCCCCCCCCCCC)O | C26H46N2O2
reactant | 1-(2-hydroxy-3-n-dodecyloxypropyl)piperazine | OC(CN1CCNCC1)COCCCCCCCCCCCC | C19H40N2O2
reactant | 4-fluorobenzyl chloride | FC1=CC=C(CCl)C=C1 | C7H6ClF
catalyst | palladium on carbon | [Pd] | Pd
product | 1-(4-fluorobenzyl)-4-(2-hydroxy-3-n-dodecyloxypropyl)-piperazine | FC1=CC=C(CN2CCN(CC2)CC(COCCCCCCCCCCCC)O)C=C1 | C26H45FN2O2
